US07723384B2
1-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-3,4-dihydro-1H-benzo[b]azepine-2,5-dione
Analogously to Example 3b, reaction of 1-(4-chlorobutyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione with 1-(2,3-dichlorophenyl)piperazine afforded the title compound.

reactant | 1-(4-chlorobutyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClCCCCN1C2=C(C(CCC1=O)=O)C=CC=C2 | C14H16ClNO2
reactant | 1-(2,3-dichlorophenyl)piperazine | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
product | 1-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCN1C2=C(C(CCC1=O)=O)C=CC=C2 | C24H27Cl2N3O2
